US04147780
The procedure described in Example 1C was repeated using DL-1-benzhydrylamino-2-methylbutanephosphonous acid as starting material instead of DL-1-benzhydrylamino-2-methylpropanephosphonous acid to give DL-1-amino-2-methylbutanephosphonous acid of melting point 203° (dec.).

reactant | 1-benzhydrylamino-2-methylbutanephosphonous acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC(C(CC)C)P(O)O | C18H24NO2P
reactant | 1-benzhydrylamino-2-methylpropanephosphonous acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC(C(C)C)P(O)O | C17H22NO2P
product | 1-amino-2-methylbutanephosphonous acid | NC(C(CC)C)P(O)O | C5H14NO2P
